US08039460B2
Step C: Benzyl 4-[1-(methoxycarbonyl)-3-oxo-3-phenylpropyl]piperidine-1-carboxylate
Osmium tetroxide (2.5 wt. % in t-BuOH; 0.2 mL, 0.001 mmol) was added to a solution of benzyl 4-[1-(methoxycarbonyl)-3-phenylbut-3-en-1-yl]piperidine-1-carboxylate (2.11 g, 5.19 mmol) in tetrahydrofuran (20 mL). Sodium periodate (3.33 g, 15.6 mmol) in water (17 mL) was added to the reaction mixture. After 18 h, saturated aqueous sodium sulfite and saturated aqueous sodium bicarbonate were added and the mixture was extracted with ethyl acetate (4×). The combined organic extracts were dried over magnesium sulfate, filtered and concentrated to give the title compound. MS 410.1 (M+1).

reactant | benzyl 4-[1-(methoxycarbonyl)-3-phenylbut-3-en-1-yl]piperidine-1-carboxylate | 5.19 mmol, 2.11 g | COC(=O)C(CC(=C)C1=CC=CC=C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C25H29NO4
reactant | Sodium periodate | 15.6 mmol, 3.33 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 17 mL | O | H2O
catalyst | Osmium tetroxide | 0.001 mmol, 0.2 mL | [Os](=O)(=O)(=O)=O
product | Benzyl 4-[1-(methoxycarbonyl)-3-oxo-3-phenylpropyl]piperidine-1-carboxylate | COC(=O)C(CC(C1=CC=CC=C1)=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C24H27NO5
